US04853386
6-[Benzyl-N-(2-methylpropyl)-amino]-9-tetrahydropyran-2-yl purine
A mixture of 10.7 g. (40 mmole) 6-chloro-9-tetrahydropyran-2-yl purine, 19.5 g. (120 mmole) N-benzyl--methylpropylamine and 60 ml. butanol is heated under reflux for 16 hours. The reaction mixture is evaporated and the residue is taken up in dichloromethane, washed with dilute acetic acid and subsequently with water, dried over anhydrous sodium sulphate, evaporated and the residue triturated with ligroin. There are obtained 14.2 g. of the title compound (97% of theory); m.p. 93°-95° C.

reactant | 6-chloro-9-tetrahydropyran-2-yl purine | 40 mmole | ClC1=C2N=CN(C2=NC=N1)C1OCCCC1 | C10H11ClN4O
reactant | N-benzyl--methylpropylamine | 120 mmole | C(C1=CC=CC=C1)N(CCC)C | C11H17N
reactant | butanol | C(CCC)O | C4H10O
product | 6-[Benzyl-N-(2-methylpropyl)-amino]-9-tetrahydropyran-2-yl purine | 97% | C(C1=CC=CC=C1)N(CC(C)C)C1=C2N=CN(C2=NC=N1)C1OCCCC1 | C21H27N5O
